US08703954B2
Synthesis of (8S)-2-{(E)-2-[6-methoxy-5-(4-methyl-1H-imidazol-1-yl)pyridin-2-yl]vinyl}-8-(2-trifluoromethylphenyl)-5,6,7,8-tetrahydro-[1,2,4]triazolo[1,5-a]pyridine Dihydrobromide
Concentrated hydrobromic acid (24.8 μL) was added to a solution of (8S)-2-{(E)-2-[6-methoxy-5-(4-methyl-1H-imidazol-1-yl)pyridin-2-yl]vinyl}-8-(2-trifluoromethylphenyl)-5,6,7,8-tetrahydro-[1,2,4]triazolo[1,5-a]pyridine (51.42 mg) in ethanol (1 mL), and 1 mL of heptane was added with stirring at room temperature. After several minutes, 1 mL of heptane was further added to the solution and stirring was continued. The solution was stirred at room temperature for one hour and then further stirred at about 5° C. for 20 minutes. The precipitated solid was collected by filtration through a glass filter and dried under reduced pressure at room temperature to obtain 49.24 mg of the title compound as white solid crystals.

reactant | hydrobromic acid | 24.8 μL | Br | BrH
reactant | (8S)-2-{(E)-2-[6-methoxy-5-(4-methyl-1H-imidazol-1-yl)pyridin-2-yl]vinyl}-8-(2-trifluoromethylphenyl)-5,6,7,8-tetrahydro-[1,2,4]triazolo[1,5-a]pyridine | 51.42 mg | COC1=C(C=CC(=N1)/C=C/C1=NN2C([C@@H](CCC2)C2=C(C=CC=C2)C(F)(F)F)=N1)N1C=NC(=C1)C | C25H23F3N6O
reactant | heptane | 1 mL | CCCCCCC | C7H16
reactant | heptane | 1 mL | CCCCCCC | C7H16
solvent | ethanol | 1 mL | C(C)O | C2H6O
product | (8S)-2-{(E)-2-[6-methoxy-5-(4-methyl-1H-imidazol-1-yl)pyridin-2-yl]vinyl}-8-(2-trifluoromethylphenyl)-5,6,7,8-tetrahydro-[1,2,4]triazolo[1,5-a]pyridine Dihydrobromide | 49.24 mg | Br.Br.COC1=C(C=CC(=N1)/C=C/C1=NN2C([C@@H](CCC2)C2=C(C=CC=C2)C(F)(F)F)=N1)N1C=NC(=C1)C | InChI=1S/C25H23F3N6O.2BrH/c1-16-14-33(15-29-16)21-11-9-17(30-24(21)35-2)10-12-22-31-23-19(7-5-13-34(23)32-22)18-6-3-4-8-20(18)25(26,27)28;;/h3-4,6,8-12,14-15,19H,5,7,13H2,1-2H3;2*1H/b12-10+;;/t19-;;/m0../s1
